US06747023B1
1-[(5-Bromopyrimidin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-2-ethylpiperazine
Under an argon atmosphere, N,N-dimethylformamide (0.15 ml) was added to a methylene chloride solution (25 ml) of 5-bromopyrimidine-2-carboxylic acid (455 mg) was added and the resulting mixture was ice cooled. Oxalyl chloride (564 mg) was added and the resulting mixture was stirred for 30 minutes under ice cooling. The resulting solution, together with diisopropylethylamine (2.7 ml), was added to a methylene chloride solution (25 ml) of 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-3-ethylpiperazine (255 mg), followed by stirring at 0° C. for 1 hour. The reaction mixture was added successively with a saturated aqueous solution of ammonium chloride and distilled water. The water layer was extracted three times with methylene chloride. The organic layers were combined, washed three times with distilled water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:100), whereby the title compound (308 mg) was obtained as a pale yellow oil.

reactant | 5-bromopyrimidine-2-carboxylic acid | 455 mg | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | Oxalyl chloride | 564 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethylamine | 2.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-3-ethylpiperazine | 255 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(NCC2)CC)C1 | C14H17ClN2O2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.15 ml | CN(C=O)C | C3H7NO
product | 1-[(5-Bromopyrimidin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]-2-ethylpiperazine | BrC=1C=NC(=NC1)C(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)CC | C19H18BrClN4O3S2
